Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Osteomyelitis
 
Major Surgical or Invasive Procedure:
Right foot resection of ___ metatarsal head, resection ___ toe 
base, excision and closure plantar ulcer 

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:
Ms. ___ is a ___ female with history of
type II diabetes complicated by stage V CKD and osteomyelitis to
___ metatarsal head with planned outpatient procedure for ___
metatarsal head resection who presents with anemia.

Patient presented to outpatient surgery on day of admission for
planned ___ metatarsal head resection for osteomyelitis, but was
found to be severely anemic. Hgb on whole blood specimen was 
4.4.
The surgery was cancelled and she was referred to the ED for
blood transfusion.

On arrival to the ED, 
- initial vitals were 96.7 69 130/73 16 99% RA. 
- Exam was notable for guaiac negative brown stool. 
- Repeat labs were notable for H/H 6.3/20.5 and Cr 5.6. 
Hemolysis
labs were negative with normal LDH and haptolgobin. She was
transfused 1 unit PRBCs. Post-transfusion H/H was 6.6/21.0. She
received a 2nd unit PRBCs. Podiatry was consulted and 
recommended
admission to medicine. 
- Prior to transfer vitals were 97.6 74 135/69 16 99% RA.

On arrival to the floor, patient reports she's feeling well and
confirms the story above. She states she has been fatigued for
the past week.

Patient denies fevers/chills, night sweats, headache, vision
changes, dizziness/lightheadedness, weakness/numbness, shortness
of breath, cough, hemoptysis, chest pain, palpitations, 
abdominal
pain, nausea/vomiting, diarrhea, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes.

 
Past Medical History:
- Type II Diabetes
- Stage V Chronic Kidney Disease ___ Diabetic Nephropathy
- Hypertension
- Bell's Palsy
- s/p LUE AV fistula in ___
- s/p cholecystectomy at age ___

 
Social History:
___
Family History:
No family history of kidney disease or cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds, no
hepatomegaly, no splenomegaly.
EXT: Warm, well perfused, trace lower extremity edema, erythema
or tenderness. LUE fistula in place and working
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: Right foot with lateral deep 1cm ulcer.

DISCHARGE PHYSICAL EXAM:
Vitals:  
24 HR Data (last updated ___ @ 810)
    Temp: 97.6 (Tm 97.9), BP: 150/68 (131-162/67-77), HR: 75
(69-82), RR: 18 (___), O2 sat: 97% (95-99), O2 delivery: Ra  

GENERAL: NAD
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: rrr, normal s1/s2, no m/r/g.
LUNG: CTAB, no wheeze, no crackles
EXT: Warm, well perfused, trace lower extremity edema, erythema
or tenderness. LUE fistula in place and working.  Right foot
dressed c/d/i. 
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.

 
Pertinent Results:
ADMISSION LABS
====================
___ 05:28AM BLOOD WBC-5.8 RBC-2.34* Hgb-6.9* Hct-22.0* 
MCV-94 MCH-29.5 MCHC-31.4* RDW-14.9 RDWSD-51.0* Plt ___
___ 05:28AM BLOOD Glucose-100 UreaN-74* Creat-6.3* Na-145 
K-4.1 Cl-107 HCO3-24 AnGap-14
___ 05:28AM BLOOD Calcium-8.9 Phos-5.8* Mg-2.0

MICROBIOLOGY
====================
___ 11:00 am TISSUE      RIGHT ___ METATARSAL HEAD. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    RARE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
      ENTEROCOCCUS SP.. 
         Isolated from broth media only, INDICATING VERY LOW 
NUMBERS OF
         ORGANISMS. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |          ENTEROCOCCUS SP.
                             |          |   
AMPICILLIN------------             =>32 R
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
LINEZOLID-------------                2 S
OXACILLIN-------------   0.5 S
PENICILLIN G----------             =>64 R
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------             =>32 R

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

RELEVANT STUDIES
========================
___ FOOT AP,LAT & OBL RIGHT:
No previous images.  There is extensive destruction about the 
fifth MCP joint involving the bony structures on both sides.  
Soft tissue prominence is seen and there is suggestion of gas 
within soft tissues on the plantar surface on the lateral view.  
All of these findings a findings are strongly suggestive of 
osteomyelitis. The remainder of the study is within normal 
limits with minimal inferior calcaneal spur. 

___ TUNNELED CENTRAL LINE PLACEMENT:
Successful placement of a single-lumen Hickman tunneled line via 
the right 
internal jugular venous approach. The tip of the catheter 
terminates in the right atrium. The catheter is ready for use. 

DISCHARGE LABS
========================
___ 05:28AM BLOOD WBC-5.8 RBC-2.34* Hgb-6.9* Hct-22.0* 
MCV-94 MCH-29.5 MCHC-31.4* RDW-14.9 RDWSD-51.0* Plt ___
___ 05:28AM BLOOD Glucose-100 UreaN-74* Creat-6.3* Na-145 
K-4.1 Cl-107 HCO3-24 AnGap-14
___ 05:28AM BLOOD Calcium-8.9 Phos-5.8* Mg-2.___DMISSION
Ms. ___ is a ___ female with history of 
type II diabetes complicated by stage V CKD and osteomyelitis to 
___ metatarsal head with planned outpatient procedure for ___ 
metatarsal head resection who presents with anemia.

ACUTE ISSUES
# ___ Metatarsal Head Osteomyelitis:
# Skin and soft tissue infection 
Patient is s/p right foot resection of ___ metatarsal head, 
resection ___ toe base, excision and closure plantar ulcer by 
podiatry on ___. Pathology showed no acute inflammation 
at the right ___ metatarasal base or margin. She was started 
empirically on cefazolin and briefly on Vancomycin due to 
concern for wound cutulres that grew MSSA and enterococcus. It 
was felt that her enterococcus was likely contaminant and the 
Vancomycin was stopped. She had a tunneled central line placed 
for a 2-week course of IV cefazolin. She will require dressing 
changes every other day with betadine to foot and will follow 
with podiatry.

# Anemia
Patient had a Hb of 4.4 fingerstick which was felt to be likely 
a false reading. She was transfused with 2U leukoreduced RBCs. 
Repeat Hb in ED was 6.3 prior to transfusion, with a baseline 
between ___. It appears likely that her anemia is secondary to 
her CKD, anemia of chronic disease and chronic foot ulcer. Her 
guaiac was negative, hemolysis labs have been negative, RBC 
morphology grossly normal. Her hemoglobin was stable and 6.9 on 
discharge. After discussion with her outpatient nephrologist, it 
was felt that her low Hb was in the setting of recent surgery 
and that the risks of transfusion (including increased rejection 
of eventual transplanted kidney) outweighed the benefit. She 
will start Epogen and Iron as an outpatient after starting 
dialysis. 

CHRONIC ISSUES
# Stage V CKD
# Hyperphosphatemia
Her Torsemide was held prior to surgery and restarted after. 

# DMII: Not currently on any medications.
- Patient states that she previously had diabetes that was well 
controlled with diet. She has been consistently within normal 
range for the past 24 hours. She takes no home antihyperglycemic 
meds, takes no home insulin. She did not require insulin during 
hospitalization. 

# Hypertension
She was non-adherent to her home meds which included HCTZ and 
amlodipine. She was uptitrated to 10mg amlodipine daily.

TRANSITIONAL ISSUES
[] Aspirin 81 was stopped for primary prevention. Please have 
PCP discussion regarding whether it is appropriate to restart. 
[] She was not taking hydralazine or Metoprolol. These were d/c 
as her blood pressure was controlled on amlodipine and should be 
restarted as clinically indicated. 
[] She was not taking Veltassa. This was d/c as she was not 
hyperkalemic and should be restarted as clinically indicated. 
[] Continue cefazolin 2g IV Q24H until ___ for treatment of 
osteomyelitis
[] Recheck CBC, BMP at next PCP visit

NEW MEDICATIONS:
CeFAZolin 2 g IV Q24H 

HELD/STOPPED MEDICATIONS:
Veltassa (patiromer calcium sorbitex) 8.4 gram oral DAILY
Metoprolol Tartrate 50 mg PO BID 
HydrALAZINE 25 mg PO TID 
Aspirin 81 mg PO DAILY 

CODE: Full 
EMERGENCY CONTACT HCP: ___ (sister) ___

___ is clinically stable for discharge today.  On 
the day of discharge, greater than 30 minutes were spent on the 
planning, coordination and communication of discharge.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sodium Bicarbonate 650 mg PO BID 
2. Metoprolol Tartrate 50 mg PO BID 
3. amLODIPine 10 mg PO DAILY 
4. HydrALAZINE 25 mg PO TID 
5. Torsemide 40 mg PO BID 
6. Aspirin 81 mg PO DAILY 
7. Calcitriol 0.25 mcg PO DAILY 
8. Veltassa (patiromer calcium sorbitex) 8.4 gram oral DAILY 
9. Clindamycin 300 mg PO Q8H 

 
Discharge Medications:
1.  CeFAZolin 2 g IV Q24H  
2.  Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line 
flush  
3.  amLODIPine 10 mg PO DAILY  
4.  Calcitriol 0.25 mcg PO DAILY  
5.  Sodium Bicarbonate 650 mg PO BID  
6.  Torsemide 40 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Osteomyelitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane) - non weight bearing of right foot. 

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___. 

Why was in the hospital?
- You were admitted to the hospital because you had a foot 
infection.

What was done in the hospital?
- You had a blood transfusion because your hemoglobin was low.
- You had an operation to remove the infected bone and soft 
tissue.
- You had a special IV line placed for antibiotics. 
- You were started on antibiotics to treat the infection in your 
foot.

What should I do when I leave the hospital?
- You should follow up with your primary care doctor. 
- You should follow up with your nephrologist. 
- You should take all your medications as prescribed. 

We wish you the best. 

Sincerely, 

Your ___ Care Team 
 
Followup Instructions:
___